US07381746B2
313 mg of sodium azide was added to 1.63 g of (1R,2R,3S,5R,6R)-2-t-butoxycarbonylamino-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 16.3 mL of N,N-dimethylformamide, and the mixture was stirred for 1 hour at room temperature, and then for 20 hours at 35° C. After 104 mg of sodium azide was further added thereto, the mixture was stirred for 18 hours at 35° C. The mixture was diluted with 50 mL of diethyl ether, and then washed twice with water and with a saturated aqueous solution of sodium chloride. The organic layers were dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=5:1), thereby yielding 775 mg of (1R,2R,3R,5R,6R)-3-azido-2-t-butoxycarbonylamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | sodium azide | 313 mg | [N-]=[N+]=[N-].[Na+]
reactant | (1R,2R,3S,5R,6R)-2-t-butoxycarbonylamino-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 1.63 g | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@@H]1OS(=O)(=O)C(F)(F)F)(C(=O)OCC)F)NC(=O)OC(C)(C)C | C18H25F4NO9S
reactant | sodium azide | 104 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 16.3 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (1R,2R,3R,5R,6R)-3-azido-2-t-butoxycarbonylamino-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 775 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1N=[N+]=[N-])(C(=O)OCC)F)NC(=O)OC(C)(C)C | C17H25FN4O6
